US08980913B2
Step 3: N-(2-(1,3-Dioxolan-2-yl)ethyl)-2-((tert-butyldimethylsilyl)oxy)ethanamine
To a stirred solution of N-(2-(1,3-dioxolan-2-yl)ethyl)-N-benzyl-2-((tert-butyldimethylsilyl)oxy)ethanamine (3.87 g, 10.6 mmol) in ethanol (100 mL) was added 10% palladium on carbon (1.93 g) and 1-methyl-1,4-cyclohexadiene (5.93 mL, 53.0 mmol). The suspension was heated at reflux for 30 minutes and allowed to cool. The suspension was filtered through celite and the filter cake washed with further ethanol. The solvent was evaporated at reduced pressure to afford the title compound (2.64 g, 91%).

reactant | N-(2-(1,3-dioxolan-2-yl)ethyl)-N-benzyl-2-((tert-butyldimethylsilyl)oxy)ethanamine | 10.6 mmol, 3.87 g | O1C(OCC1)CCN(CCO[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C20H35NO3Si
reactant | 1-methyl-1,4-cyclohexadiene | 53.0 mmol, 5.93 mL | CC1=CCC=CC1 | C7H10
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.93 g | [Pd] | Pd
product | N-(2-(1,3-Dioxolan-2-yl)ethyl)-2-((tert-butyldimethylsilyl)oxy)ethanamine | 2.64 g, 91% | O1C(OCC1)CCNCCO[Si](C)(C)C(C)(C)C | C13H29NO3Si
